US06686356B2
Step 3: Preparation of N-benzyl-N-methyl-5-(4-morpholinylmethyl)-2-nitroaniline
A mixture of N-benzylmethylamine (3.6 g, 30 mmol) and 4-(3-fluoro-4-nitrobenzyl)morpholine (2.4 g, 10 mmol) in acetonitrile (3.0 mL) is heated under reflux for 30 min and the solvent is then removed under reduced pressure. The residual oil is partitioned between ethyl acetate (70 mL) and sodium hydroxide solution (10 mL of 1 N) and the ethyl acetate phase is separated and washed twice with water (5 mL). The ethyl acetate is removed and the crude product is applied to a silica gel column. The column is eluted with 50% ethyl acetate/hexane to give 3.3 g of the title compound as an oil.

reactant | N-benzylmethylamine | 30 mmol, 3.6 g | C(C1=CC=CC=C1)CN | C8H11N
reactant | 4-(3-fluoro-4-nitrobenzyl)morpholine | 10 mmol, 2.4 g | FC=1C=C(CN2CCOCC2)C=CC1[N+](=O)[O-] | C11H13FN2O3
reactant | acetonitrile | 3.0 mL | C(C)#N | C2H3N
product | N-benzyl-N-methyl-5-(4-morpholinylmethyl)-2-nitroaniline | 3.3 g | C(C1=CC=CC=C1)N(C1=C(C=CC(=C1)CN1CCOCC1)[N+](=O)[O-])C | C19H23N3O3
